US07138491B2
The preparation of H-Ala-Arg-Pro-Ala-OH (10) (SEQ ID NO: 2)
The solution of 250 mg (0.330 mmol) of Boc-Ala-Arg(Tos)-Pro-Ala-OBzl (SEQ ID NO: 7), 1 ml of anisole and 2 ml of HF was stirred at 0° C. for 2 h. The reaction mixture was evaporated under reduced pressure to remove HF. To the residue 2 ml of HF were added and the solution was stirred at 0° C. for another 1 h. The reaction mixture was evaporated under reduced pressure to remove HF. The residue was triturated with ether and the resulted solid was purified on the Sephadex G-10 column. The collected fractions were lyophilized to provide 80 mg (58%) of the title compound. Mp. 157–159° C., FAB-MS (m/e) 415[M+H]+.

reactant | Boc-Ala-Arg(Tos)-Pro-Ala-OBzl | 0.330 mmol, 250 mg | N([C@@H](C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C36H51N7O9S
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | H-Ala-Arg-Pro-Ala-OH | 80 mg, 58% | N[C@@H](C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)O)CCC1 | C17H31N7O5
